US05624943
Under the conditions of example 1 D, 600 mg of 3-{3-hydroxy-6-[2-(4-methoxycarbonylmethylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester is reacted with 460 mg of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene, worked up, and the crude product is chromatographed on silica gel with hexane/0-10% ethyl acetate. 504 mg of 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-[2-(4-methoxycarbonylmethylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester is obtained as oil.

reactant | 3-{3-hydroxy-6-[2-(4-methoxycarbonylmethylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester | 600 mg | COC(CCC1=NC(=CC=C1O)C#CC1=CC=C(C=C1)CC(=O)OC)=O | C20H19NO5
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 460 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
product | 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-[2-(4-methoxycarbonylmethylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester | 504 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)C#CC1=CC=C(C=C1)CC(=O)OC)=O | C33H35NO6
